US07351719B2
Z13b) 3-chloro-4-(3-diethylamino-prop-1-ynyl)-phenylamine
A solution of 15 mL of conc. aqueous HCl in 15 mL EtOH was added to a suspension of 4.189 g (75.00 mmol) of iron powder and 2.00 g (7.50 mmol) of [3-(2-chloro-4-nitro-phenyl)-prop-2-ynyl]-diethyl-amine in 20 mL of EtOH with vigorous stirring and the mixture was stirred for 30 minutes. The reaction mixture was neutralised with 200 mL of 10% aqueous sodium carbonate solution and exhaustively extracted with EtOAc. The combined org. phases were dried over magnesium sulphate, evaporated down i. vac. and the residue was purified by column chromatography (silica gel, gradient dichloromethane /10% conc. aqueous ammonia in MeOH 100:0→5:95).

reactant | HCl | 15 mL | Cl | ClH
reactant | [3-(2-chloro-4-nitro-phenyl)-prop-2-ynyl]-diethyl-amine | 7.50 mmol, 2.00 g | ClC1=C(C=CC(=C1)[N+](=O)[O-])C#CCN(CC)CC | C13H15ClN2O2
reactant | sodium carbonate | 200 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | EtOH | 15 mL | CCO | C2H6O
solvent | EtOH | 20 mL | CCO | C2H6O
catalyst | iron | 75.00 mmol, 4.189 g | [Fe] | Fe
product | 3-chloro-4-(3-diethylamino-prop-1-ynyl)-phenylamine | ClC=1C=C(C=CC1C#CCN(CC)CC)N | C13H17ClN2
